US08445510B2
Ethyl trans-4-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanecarboxylate
To a solution of ethyl trans-4-(4-iodo-5-methyl-1H-pyrazol-1-yl)cyclohexanecarboxylate (100.0 mg, 0.2761 mmol) in THF (5 mL, 60 mmol) was added 2 M isopropylmagnesium chloride in THF (0.5522 mL, 1.104 mmol) at rt, and the mixture was stirred for 30 min. 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.2262 mL, 1.380 mmol) was added, and the mixture stirred at rt for 2 h. The reaction was quenched with sat. NH4Cl, and the organic solvent was removed in vacuo. The material was extracted with DCM and water, and the organic layer was concentrated in vacuo to afford the title compound as a clear oil. The material was used in the next step without further purification.

reactant | ethyl trans-4-(4-iodo-5-methyl-1H-pyrazol-1-yl)cyclohexanecarboxylate | 0.2761 mmol, 100.0 mg | IC=1C=NN(C1C)[C@@H]1CC[C@H](CC1)C(=O)OCC | C13H19IN2O2
reactant | THF | 60 mmol, 5 mL | C1CCOC1 | C4H8O
reactant | isopropylmagnesium chloride | 2 M | C(C)(C)[Mg]Cl
reactant | THF | 1.104 mmol, 0.5522 mL | C1CCOC1 | C4H8O
reactant | 2-Methoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1.380 mmol, 0.2262 mL | COB1OC(C(O1)(C)C)(C)C | C7H15BO3
product | Ethyl trans-4-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanecarboxylate | CC1=C(C=NN1[C@@H]1CC[C@H](CC1)C(=O)OCC)B1OC(C(O1)(C)C)(C)C | C19H31BN2O4
